US04602035
2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-cyclopropylmethyl-N-methylethylamine fumarate
A mixture of 4.0 g (15.8 mmole) of 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N-methylethylamine, 1.54 g (17.1 mmole) cyclopropylmethyl chloride, 6.9 g (50.0 mmole) K2CO3 and 0.2 g KI in 40 ml DMF was warmed to 65° and maintained there for 4 hours. After cooling, the reaction mixture was poured into 400 ml water and extracted with Et2O (3×200 ml). The combined organics were washed with saturated NaCl solution and dried over Na2SO4. After filtration, the solution was stirred with several grams of silica gel and decanted. After adding 1.85 g fumaric acid and stirring for 1 hour, 4.2 g of solid was collected. This material was recrystallized from CH3CN to give 2.2 g (33%) of crystals, m.p. 154°-156°.

reactant | 2-(3-phenyl-2,3-dihydrobenzofuran-3-yl)-N-methylethylamine | 15.8 mmole, 4.0 g | C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)CCNC | C17H19NO
reactant | cyclopropylmethyl chloride | 17.1 mmole, 1.54 g | C1(CC1)CCl | C4H7Cl
reactant | K2CO3 | 50.0 mmole, 6.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 400 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 2-(3-Phenyl-2,3-dihydrobenzofuran-3-yl)-N-cyclopropylmethyl-N-methylethylamine fumarate | 2.2 g, 33% | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C1(COC2=C1C=CC=C2)CCN(C)CC2CC2 | InChI=1S/C21H25NO.C4H4O4/c1-22(15-17-11-12-17)14-13-21(18-7-3-2-4-8-18)16-23-20-10-6-5-9-19(20)21;5-3(6)1-2-4(7)8/h2-10,17H,11-16H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
